US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-1,3-dimethyluric acid
To 7-[4-(4-chlorobenzoyl)benzyl]-1,3-dimethyl-8-methoxyxanthine (400 mg) was added concentrated hydrochloric acid (8 ml) at room temperature and the mixture was stirred at 130° C. for 1 hour. After cooling, the resulting precipitate was collected by filtration and rinsed with water and ether to provide the title compound as colorless powder (333 mg, 86%). 1H-NMR (CDCl3 +5% CD3OD) E: 3.36(3H,s), 3.45(3H,s), 5.23(2H,s), 7.40-7.80(8H,m).

reactant | 7-[4-(4-chlorobenzoyl)benzyl]-1,3-dimethyl-8-methoxyxanthine | 400 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C(=NC=4N(C(N(C(C34)=O)C)=O)C)OC)C=C2)C=C1 | C22H19ClN4O4
reactant | hydrochloric acid | 8 ml | Cl | ClH
product | 7-[4-(4-Chlorobenzoyl)benzyl]-1,3-dimethyluric acid | 333 mg, 86% | ClC1=CC=C(C(=O)C2=CC=C(CN3C(NC=4N(C(N(C(C34)=O)C)=O)C)=O)C=C2)C=C1 | C21H17ClN4O4
